US06348474B1
2-Methylpyrazolo[1,5-a]pyridine-3,5-dicarboxylic acid
A mixture of diethyl 2-methylpyrazolo[1,5-a]pyridine-3,5-dicarboxylate (100 mg), a 50% aqueous sodium hydroxide solution (160 mg), water (0.5 ml) and ethanol (1.0 ml) was refluxed under heating for 30 min. Then, the reaction mixture was adjusted to pH 4 under ice-cooling and stirred at the same temperature for 30 min. The precipitate was collected by filtration and washed with water to give the objective compound (50 mg) as a pale-brown powder.

reactant | diethyl 2-methylpyrazolo[1,5-a]pyridine-3,5-dicarboxylate | 100 mg | CC1=NN2C(C=C(C=C2)C(=O)OCC)=C1C(=O)OCC | C14H16N2O4
reactant | sodium hydroxide | 160 mg | [OH-].[Na+]
reactant | water | 0.5 ml | O | H2O
solvent | ethanol | 1.0 ml | C(C)O | C2H6O
product | 2-Methylpyrazolo[1,5-a]pyridine-3,5-dicarboxylic acid | 50 mg | CC1=NN2C(C=C(C=C2)C(=O)O)=C1C(=O)O | C10H8N2O4
